US04108993
Hydrogen was passed through a mixture of 3.37 g of 2-benzyl-4-(3',4'-dichlorophenyl)-3-oxo-5,6-dihydro-1,2,4-oxadiazine, 70 ml of acetic acid, 680 mg of animal charcoal and 0.6 ml of a 20% palladium chloride solution until absorption ceased and the mixture was filtered. The filter was washed with acetic acid and the filtrate was poured into ice water. The mixture was extracted with methylene chloride and the organic extracts were dried and evaporated to dryness. The crystalline product was taken up in isopropyl ether to obtain 2.37 g of 4-(3',4'-dichlorophenyl)-3-oxo-5,6-dihydro-1,2,4-oxadiazine melting at 152° C.

reactant | Hydrogen | [H][H] | H2
reactant | 2-benzyl-4-(3',4'-dichlorophenyl)-3-oxo-5,6-dihydro-1,2,4-oxadiazine | 3.37 g | C(C1=CC=CC=C1)N1OCCN(C1=O)C1=CC(=C(C=C1)Cl)Cl | C16H14Cl2N2O2
reactant | charcoal | 680 mg | C | CH4
catalyst | palladium chloride | [Pd](Cl)Cl
solvent | acetic acid | 70 ml | C(C)(=O)O | C2H4O2
product | 4-(3',4'-dichlorophenyl)-3-oxo-5,6-dihydro-1,2,4-oxadiazine | 2.37 g | ClC=1C=C(C=CC1Cl)N1C(NOCC1)=O | C9H8Cl2N2O2
